US07902187B2
6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-7-methyl-9-(trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl)-7H-purin-8(9H)-one.
To a solution of 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl)-7H-purin-8(9H)-one (0.06 mmol) in anhydrous CH3CN (10 mL) were added BEMP on polystyrene (loading 2.2 mmol/g, 4 equiv.) and iodomethane (primary alkyl iodide/benzyl iodide or bromide to be used for alkylation) (6 equiv.) with stirring at room temperature. After 1 h, LCMS showed reaction to be complete. The reaction mixture was filtered under vacuum, the resin washed with CH3CN and methanol, and the combined filtrate and washings were concentrated in vacuo to give the desired product as a pale yellow solid, which was used in the next step without further purification. MS (EI) m/z 501.2 (MH)+.

reactant | 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl)-7H-purin-8(9H)-one | 0.06 mmol | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)F)[C@@H]2CC[C@H](CC2)OC2OCCCC2)=O | C23H24ClFN6O3
reactant | BEMP on polystyrene | 4 equiv. | CCN(CC)P1(=NC(C)(C)C)NCCCN1C | C12H29N4P
reactant | iodomethane | 6 equiv. | IC | CH3I
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-7-methyl-9-(trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl)-7H-purin-8(9H)-one | ClC1=C2N(C(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)F)[C@@H]2CC[C@H](CC2)OC2OCCCC2)=O)C | C24H26ClFN6O3
